US06897224B2
4-(5-Fluoro-2-hydroxyphenyl)-1-(isoquinoline-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 2, 65 mg (0.15 mmol) of 4-(5-fluoro-2-methoxyphenyl)-1-(isoquinolin-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol is reacted with 2.7 ml of 1 M boron tribromide-CH2Cl2 solution. After chromatography on silica gel with hexane-ethyl acetate (0-80%), 33 mg of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-1-(isoquinolin-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.15 mmol, 65 mg | FC=1C=CC(=C(C1)C(CC(CNC1=NC=CC2=CC=CC=C12)(O)C(F)(F)F)(C)C)OC | C23H24F4N2O2
reactant | boron tribromide CH2Cl2 | 1 M, 2.7 ml | B(Br)(Br)Br.C(Cl)Cl
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(5-Fluoro-2-hydroxyphenyl)-1-(isoquinoline-1-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 33 mg | FC=1C=CC(=C(C1)C(CC(CNC1=NC=CC2=CC=CC=C12)(O)C(F)(F)F)(C)C)O | C22H22F4N2O2
